US04670604
43 ml of 1,3-dibromopropane are added to a suspension of 29 g of potassium carbonate and 0.5 g of potassium iodide in 170 ml of acetone and the mixture is refluxed. A solution of 19.4 g of 3-nitrophenol is then added dropwise in the course of 2 hours and the mixture is refluxed for a further 15 hours. The reaction mixture is filtered hot and evaporated. Chromatography of the residue on silica gel with toluene gives 3-(3-bromopropoxy)-nitrobenzene as a pale yellow oil.

reactant | 1,3-dibromopropane | 43 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | 3-nitrophenol | 19.4 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
solvent | acetone | 170 ml | CC(=O)C | C3H6O
product | 3-(3-bromopropoxy)-nitrobenzene | BrCCCOC=1C=C(C=CC1)[N+](=O)[O-] | C9H10BrNO3
